US06825172B2
Preparation of 3-(6-trifluoromethyl-pyridin-3-yl)-propenal
The title compound was prepared by a procedure analogous to Reference Example 7 by substituting 6-trifluoromethyl-3-pyridinecarboxaldehyde for the 3-quinolinecarboxaldehyde of Reference Example 7. MS 202 (M+H)+.

reactant | 6-trifluoromethyl-3-pyridinecarboxaldehyde | FC(C1=CC=C(C=N1)C=O)(F)F | C7H4F3NO
reactant | 3-quinolinecarboxaldehyde | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
product | 3-(6-trifluoromethyl-pyridin-3-yl)-propenal | FC(C1=CC=C(C=N1)C=CC=O)(F)F | C9H6F3NO
